US06030991
2,4,5-Trichloro-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide was prepared from 5-amino-4-bromo-3-methylisoxazole and 2,4,5-trichlorobenzenesulfonyl chloride according to the procedures described in Example 30. The crude product was purified by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 179-182° C., yield 67%.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 2,4,5-trichlorobenzenesulfonyl chloride | ClC1=C(C=C(C(=C1)Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
product | 2,4,5-Trichloro-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | yield 67% | ClC1=C(C=C(C(=C1)Cl)Cl)S(=O)(=O)NC1=C(C(=NO1)C)Br | C10H6BrCl3N2O3S
